US06407096B1
8-hydroxy-3-oxo-4-(2-(benzyloxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine
3-oxo-4-(2-(benzyloxy)ethyl)-8-(tetrahydropyrane-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine (1.89 g) was dissolved in methanol (100 ml), and pyridinium p-toluenesulfonate (126 mg) was added to the resultant solution, and the mixture was refluxed for 12 hours. The solvent was distilled off under reduced pressure, and the residue was poured into a saturated sodium bicarbonate aqueous solution, and then extracted with ethyl acetate. The resultant organic layer was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography (silica gel:hexane/ethyl acetate=1/1) to obtain the object compound (1.18 g, yield 80%).

reactant | 3-oxo-4-(2-(benzyloxy)ethyl)-8-(tetrahydropyrane-2-yloxy)-3,4-dihydro-2H-1,4-benzoxazine | 1.89 g | O=C1COC2=C(N1CCOCC1=CC=CC=C1)C=CC=C2OC2OCCCC2 | C22H25NO5
reactant | pyridinium p-toluenesulfonate | 126 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 100 ml | CO | CH4O
product | 8-hydroxy-3-oxo-4-(2-(benzyloxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 1.18 g, yield 80% | OC1=CC=CC=2N(C(COC21)=O)CCOCC2=CC=CC=C2 | C17H17NO4
